US09260425B2
A solution containing 5-bromo-3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine (1.00 g, 2.45 mmol), 1-acetylimidazolidin-2-one (0.3768 g, 2.941 mmol), N,N′-Dimethylethylenediamine (0.528 mL, 4.90 mmol), Copper(I) iodide (0.467 g, 2.45 mmol) and Potassium carbonate (0.4064 g, 2.941 mmol) in 1,4-Dioxane (40.0 mL, 512 mmol) was stirred at 75° C. for 2 h. The reaction was filtered thru celite and concentrated. The crude product purified by Isco column (1% MeOH/EtOAc/Hep eluted at 55% EtOAc) to give 1-acetyl-3-(5-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)imidazolidin-2-one (620 mg, 62% yield). ESI MS m/z=408.1 (M+1).

reactant | 5-bromo-3-iodo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | 2.45 mmol, 1.00 g | BrC=1C=C2C(=CN1)N(N=C2I)C2OCCCC2 | C11H11BrIN3O
reactant | 1-acetylimidazolidin-2-one | 2.941 mmol, 0.3768 g | C(C)(=O)N1C(NCC1)=O | C5H8N2O2
reactant | N,N′-Dimethylethylenediamine | 4.90 mmol, 0.528 mL | CNCCNC | C4H12N2
reactant | Potassium carbonate | 2.941 mmol, 0.4064 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-Dioxane | 512 mmol, 40.0 mL | O1CCOCC1 | C4H8O2
catalyst | Copper(I) iodide | 2.45 mmol, 0.467 g | [Cu]I
product | 1-acetyl-3-(5-bromo-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-3-yl)imidazolidin-2-one | 620 mg, 62% yield | C(C)(=O)N1C(N(CC1)C1=NN(C2=CN=C(C=C21)Br)C2OCCCC2)=O | C16H18BrN5O3
